US07977344B2
Ethyl (2E)-3-(5,6-dihydro-2H-pyran-3-yl)-2-propenoate
To 5,6-dihydro-2H-pyran-3-carbaldehyde (5.0 g) in dry dichloromethane (150 ml) at 0° C., was added carbethoxymethylene-triphenylphosphorane (15.53 g). The reaction was allowed to warm to room temperature and stirred overnight. The reaction was diluted with dichloromethane (150 ml) and washed with water (150 ml) and a saturated aqueous solution of brine (150 ml). The organic layer was dried by passing through a hydrophobic frit and concentrated in vacuo. to afford a yellow oil. The product was purified by silica chromatography (120 g) (ISCO) using a gradient elution of 0-10% cyclohexane:ethyl acetate to afford the title compound as a clear oil (5.59 g).

reactant | 5,6-dihydro-2H-pyran-3-carbaldehyde | 5.0 g | O1CC(=CCC1)C=O | C6H8O2
reactant | carbethoxymethylene-triphenylphosphorane | 15.53 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Ethyl (2E)-3-(5,6-dihydro-2H-pyran-3-yl)-2-propenoate | 5.59 g | O1CC(=CCC1)/C=C/C(=O)OCC | C10H14O3
